US06545023B2
Step B: 3,5-Bis(trifluoromethyl)benzyl 3-methylene-1-methylcyclopentanecarboxamide
A solution of 3-methylene-1-methylcyclopentanecarboxylic acid, (600 mg, 4.28 mmol) 3,5-bis(trifluoromethyl)benzylamine hydrochloride (1.196 g, 4.28 mmol), 1-hydroxy-7-azabenzotriazole (583 mg, 4.28 mmol) and diisopropylethylamine (745 μL, 4.28 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC, 1.230 g, 0.168, 6.42 mmol) in dichloromethane (10 mL) was stirred at room temperature for 1 hr. The reaction mixture was diluted with dichloromethane (40 mL) and washed with water (3×30 mL), brine (1×30 mL), dried (anhydrous sodium sulfate) and the solvent was evaporated under reduced pressure. The crude product was purified via mplc (Lobar Fertigsaule, LiChroprep, 40-63 μm, ethyl acetate/hexanes (1:4)) yielding 777.6 mg (49%) of pure product. 1H NMR (500 MHz, CDCl3) 7.79 (s, 1H), 7.70 (s, 2H), 6.19 (bs, 1H), 4.98 (bs, 1H), 4.92 (bs, 1H), 4.62 (dd, 15.6 Hz, 6.2 Hz, 1H), 4.54 (dd, 15.8 Hz, 6.0 Hz, 1H), 2.78 (bd, 15.8 Hz, 1H), 2.46 (m, 2H), 2.30 (bd, 15.8 Hz, 1H), 2.18 (m, 1H), 1.70 (m, 1H), 1.31 (s, 3H).

reactant | 3-methylene-1-methylcyclopentanecarboxylic acid | 4.28 mmol, 600 mg | C=C1CC(CC1)(C(=O)O)C | C8H12O2
reactant | 3,5-bis(trifluoromethyl)benzylamine hydrochloride | 4.28 mmol, 1.196 g | Cl.FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F
reactant | 1-hydroxy-7-azabenzotriazole | 4.28 mmol, 583 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diisopropylethylamine | 4.28 mmol, 745 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 6.42 mmol, 1.230 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3,5-Bis(trifluoromethyl)benzyl 3-methylene-1-methylcyclopentanecarboxamide | 777.6 mg, 49% | FC(C=1C=C(CC2C(CCC2=C)(C(=O)N)C)C=C(C1)C(F)(F)F)(F)F | C17H17F6NO
